US06051728
8.34 g (20 mmol) of 2,2-bis(3-trimethylsilyl-indenyl)propane were dissolved in 100 ml of ether. The solution thus obtained was taken to -20° C., and 22 ml of a 2.0 M solution of n-butyl-lithium in pentane were added, a suspension of the dilithium 2,2-bis(3-trimethylsilyl-indenyl)propane thus being obtained. To this suspension, which was first allowed to rise to room temperature and was then cooled to -40° C., 12.06 g (50 mmol) of triethylstannylchloride were added. The organic layer was separated off and subjected to evaporation, and 50 ml of toluene were then added. Subsequently, 4.66 g (20 mmol) of ZrCl4 was added, and the mixture thus obtained was taken to 80° C. and stirred for a further 6 hours. The toluene was then removed, and the product was washed with DME (5×50 ml) and recrystallized from DME. 3.69 g of pure rac-isopropylidene-bis(3-trimethylsilyl-indenyl)zirconium dichloride was obtained (yield 32%). 1H-NMR (CD2Cl2, 30° C.) δ: 7.80 (d,2H); 7.55 (d,2H); 7.30 (t,2H); 7.06 (t,2H); 6.06 (s,2H); 2.38 (s,6H); 0.23 (s,18H).

reactant | 2,2-bis(3-trimethylsilyl-indenyl)propane | 20 mmol, 8.34 g | C[Si](C1=CC(C2=CC=CC=C12)C(C)(C)C1C=C(C2=CC=CC=C12)[Si](C)(C)C)(C)C | C27H36Si2
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | dilithium 2,2-bis(3-trimethylsilyl-indenyl)propane | C[Si](C1=CC(C2=CC=CC=C12)C(C)(C)C1C=C(C2=CC=CC=C12)[Si](C)(C)C)(C)C.[Li].[Li]
reactant | triethylstannylchloride | 50 mmol, 12.06 g | C(C)[Sn](CC)(CC)Cl
reactant | ZrCl4 | 20 mmol, 4.66 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | pentane | CCCCC | C5H12
product | rac-isopropylidene-bis(3-trimethylsilyl-indenyl)zirconium dichloride | 3.69 g, yield 32% | [Cl-].[Cl-].C(C)(C)=[Zr+2](C1C=C(C2=CC=CC=C12)[Si](C)(C)C)C1C=C(C2=CC=CC=C12)[Si](C)(C)C | InChI=1S/2C12H15Si.C3H6.2ClH.Zr/c2*1-13(2,3)12-9-8-10-6-4-5-7-11(10)12;1-3-2;;;/h2*4-9H,1-3H3;1-2H3;2*1H;/q;;;;;+2/p-2
